US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(2-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide
Using N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (200 mg, 0.613 mmol), 1-(2-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid (169 mg, 0.735 mmol), N,N-dimethylformamide (2 mL), N,N-diisopropylethylamine (211 μL, 1.23 mmol) and HATU (280 mg, 0.735 mmol) and in the same manner as in Example 24, the title compound (177 mg, 54%) was obtained as pale-yellow crystals.

reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.613 mmol, 200 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | 1-(2-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.735 mmol, 169 mg | CC1=C(C=CC=C1)N1C(C(=CC=C1)C(=O)O)=O | C13H11NO3
reactant | N,N-diisopropylethylamine | 1.23 mmol, 211 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.735 mmol, 280 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(2-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 177 mg, 54% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C=CC2)C2=C(C=CC=C2)C)=O)F)C1 | C30H24FN5O4
